US07217730B2
4-Bromo-3-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-7-methyl-1H-indole
A mixture of 2-(4-bromo-7-methyl-1H-indol-3-yl)-ethanol (2.51 g, 9.89 mmol), imidazole (1.68 g, 24.7 mmol) and tert-butyldimethylsilyl chloride (1.79 g, 11.9 mmol) in DMF (30 mL) was stirred overnight at room temperature. The reaction mixture was diluted with EtOAc (200 mL). The organic solution was washed with H2O (5×200 mL) and brine (200 mL), dried (Na2SO4), and concentrated to give 3.49 g (96%) of title compound as yellow oil. 1H NMR (CDCl3): 300 MHz δ 8.14 (bs, 1H), 7.11 (d, J=7.59 Hz, 1H), 6.99 (s, 1H), 6.72 (d, J=7.59 Hz, 1H), 3.90 (t, J=7.17 Hz, 2H), 3.19 (t, J=7.17 Hz, 2H), 2.31 (s, 3H), 0.87 (s, 9H), −0.08 (s, 6H).

reactant | 2-(4-bromo-7-methyl-1H-indol-3-yl)-ethanol | 9.89 mmol, 2.51 g | BrC1=C2C(=CNC2=C(C=C1)C)CCO | C11H12BrNO
reactant | imidazole | 24.7 mmol, 1.68 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 11.9 mmol, 1.79 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 4-Bromo-3-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-7-methyl-1H-indole | 3.49 g, 96% | BrC1=C2C(=CNC2=C(C=C1)C)CCO[Si](C)(C)C(C)(C)C | C17H26BrNOSi
